US08633173B2
7-[8-(3-Trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-(3-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine (0.272 g, 914 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.360 g, 1.37 mmol) in a manner analogous to Example 311a and 311b to give product (0.203 g, 44%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.62 (s, 1H), 8.83 (d, 1H), 8.65 (s, 1H), 8.40 (d, 1H), 7.95 (d, 1H), 7.82 (m, 2H), 7.50 (m, 2H), 7.15 (t, 1H), 7.05 (d, 1H), 3.45 (m, 4H), 2.75 (m, 4H), 1.41 (s, 9H). MS=524 (MH)+.

reactant | 2-chloro-8-(3-trifluoromethyl-phenyl)-[1,2,4]-triazolo[1,5-a]pyridine | 914 mmol, 0.272 g | ClC1=NN2C(C(=CC=C2)C2=CC(=CC=C2)C(F)(F)F)=N1 | C13H7ClF3N3
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 1.37 mmol, 0.360 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-[8-(3-Trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=CC(=CC=C1)C(F)(F)F)=N2 | C28H28F3N5O2
